US07511041B2
To a suspension of 2,3-dihydroimidazo[1,2-c]quinazolin-5-ylamine hydrobromide (500 mg, 1.87 mmol) and nicotinic acid (346 mg, 2.81 mmol) in N,N-dimethyl-formamide (25 ml) at room temperature was added benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate (1.46 g, 2.81 mmol) followed by N,N-diisopropylethylamine (1.30 ml, 7.49 mmol). The mixture was heated at 80° C. for 4 hours. After cooling to room temperature, the mixture was quenched with aqueous saturated NaHCO3 solution. The resulting precipitate was collected by filtration, washed with water and diethyl ether, and dried under reduced pressure to give N-(2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)nicotinamide (450 mg, 83% yield).

reactant | 2,3-dihydroimidazo[1,2-c]quinazolin-5-ylamine hydrobromide | 1.87 mmol, 500 mg | Br.N=1CCN2C(=NC=3C=CC=CC3C21)N
reactant | nicotinic acid | 2.81 mmol, 346 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate | 2.81 mmol, 1.46 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | N,N-diisopropylethylamine | 7.49 mmol, 1.30 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethyl-formamide | 25 ml | CN(C=O)C | C3H7NO
product | N-(2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)nicotinamide | 450 mg, 83% yield | N=1CCN2C(=NC=3C=CC=CC3C21)NC(C2=CN=CC=C2)=O | C16H13N5O
